US03996246
150 g of Raney cobalt, suspended in 1,000 ml of ethanol and 3.5 kg of ammonia, are heated to 80° C in a stirred autoclave, and hydrogen is then introduced until the total pressure is 150 bars. 2,020 g of (-)-3-formylpinane are pumped in over 6 hours. The pressure is kept constant by replenishing with hydrogen. After completion of the reaction, the autoclave is allowed to cool and the pressure is then released. The reaction product, weighing 3,450 g, is worked up by fractional distillation, giving 1,450 g of structurally pure (-)-3-aminomethylpinane, which boils at 100° C at 11 mm Hg and has an optical rotation of [α]D23 = -32.6° (pure).

reactant | hydrogen | [H][H] | H2
reactant | (-)-3-formylpinane | 2,020 g | C(=O)C1C(C2C(C(C1)C2)(C)C)C | C11H18O
reactant | ammonia | 3.5 kg | N | H3N
solvent | ethanol | 1,000 ml | C(C)O | C2H6O
catalyst | cobalt | [Co] | Co
product | (-)-3-aminomethylpinane | NCC1C(C2C(C(C1)C2)(C)C)C | C11H21N
